US08383631B2
3-chloro-1-(4-(4-cyclohexylphenyl)piperazin-1-yl)propan-1-one
A target compound (2.2 g, 6.569 mmol) was yielded as white solid in the same manner as Reference Example 13 by reacting 1-(4-cyclohexylphenyl)piperazine (2.01 g, 8.224 mmol) with 3-chloropropionyl chloride (0.79 mL, 8.224 mmol) and purifying by separation through column chromatography (EtOAc:hexane:CH2Cl2, 1:1:5).

reactant | 1-(4-cyclohexylphenyl)piperazine | 8.224 mmol, 2.01 g | C1(CCCCC1)C1=CC=C(C=C1)N1CCNCC1 | C16H24N2
reactant | 3-chloropropionyl chloride | 8.224 mmol, 0.79 mL | ClCCC(=O)Cl | C3H4Cl2O
product | 3-chloro-1-(4-(4-cyclohexylphenyl)piperazin-1-yl)propan-1-one | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1CCCCC1 | C19H27ClN2O
